US08258501B2
1 g 2-amino-4,6-dimethylpyrimidine was heated for 14 h in a hydrochloric acid environment (2 M HCl) with palladium on activated charcoal as a catalyst, with H2 fed in. Subsequent filtration, removal of the solvent and addition of diethyl ether yielded the 2-amino-4,6-dimethyl-1,4,5,6-tetrahydropyrimidine hydrochloride, which was recrystallized from i-propanol/diethyl ether and dried in a vacuum.

reactant | 2-amino-4,6-dimethylpyrimidine | 1 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | hydrochloric acid | Cl | ClH
reactant | HCl | 2 M | Cl | ClH
catalyst | palladium on activated charcoal | [Pd] | Pd
product | 2-amino-4,6-dimethyl-1,4,5,6-tetrahydropyrimidine hydrochloride | Cl.NC=1NC(CC(N1)C)C | InChI=1S/C6H13N3.ClH/c1-4-3-5(2)9-6(7)8-4;/h4-5H,3H2,1-2H3,(H3,7,8,9);1H
